US07902248B2
(E)-Cyclopentyloxyimino-(3,4-dichloro-phenyl)-acetic acid (100 mg, 0.33 mmol) was dissolved in methylene chloride (1.6 mL). N,N-diisopropylethylamine (173 μL, 0.99 mmol) and 1-methyl-1H-pyrazol-3-ylamine (32 μL, 0.33 mmol) were added and the reaction mixture was cooled to 0° C. O-(7-Azabenzotriazole-1-yl)-N,N,N′N′-tetramethyluronium hexafluorophosphate (126 mg, 0.33 mmol) was added and the reaction mixture was allowed to warm to 25° C. After stirring 16 h, the reaction mixture was diluted with chloroform (2 mL) and washed with saturated aqueous sodium bicarbonate solution (1.5 mL). The aqueous phase was extracted with chloroform (1.5 mL) and the combined organic phases were filtered through sodium sulfate and evaporated in vacuo. The residue was purified by flash column chromatography (Merck silica gel 60, 40-63 μm; 40% ethyl acetate/hexanes) to afford (E)-2-cyclopentyloxyimino-2-(3,4-dichloro-phenyl)-N-(1-methyl-1H-pyrazol-3-yl)-acetamide (103 mg, 82%) as a white solid after lyophilization from aqueous dioxane: LC-MS (ESI) m/e calcd for C17H18Cl2N4O2 [M+] 380.08, found 381 [M+H+]; H1-NMR (400 MHz, CDCl3) □ ppm 1.64 (m, 4 H, 2×CH2), 1.85 (m, 4 H, 2×CH2), 3.83 (s, 3 H, NCH3), 4.84 (m, 1 H, OCH), 6.70 (d, J=2.3 Hz, 1 H, Ar), 7.26 (d, J=2.3 Hz, 1 H, Ar), 7.33 (dd, Jo=8.3, Jm=1.9 Hz, 1 H, Ar), 7.47 (d, Jo=8.3 Hz, 1 H, Ar), 7.61 (d, Jm=1.9 Hz, 1 H, Ar), 9.15 (s, 1 H, NH).

reactant | (E)-Cyclopentyloxyimino-(3,4-dichloro-phenyl)-acetic acid | 0.33 mmol, 100 mg | C1(CCCC1)O\N=C(\C(=O)O)/C1=CC(=C(C=C1)Cl)Cl | C13H13Cl2NO3
reactant | N,N-diisopropylethylamine | 0.99 mmol, 173 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-methyl-1H-pyrazol-3-ylamine | 0.33 mmol, 32 μL | CN1N=C(C=C1)N | C4H7N3
solvent | methylene chloride | 1.6 mL | C(Cl)Cl | CH2Cl2
solvent | chloroform | 2 mL | C(Cl)(Cl)Cl | CHCl3
product | (E)-2-cyclopentyloxyimino-2-(3,4-dichloro-phenyl)-N-(1-methyl-1H-pyrazol-3-yl)-acetamide | 103 mg, 82% | C1(CCCC1)O\N=C(\C(=O)NC1=NN(C=C1)C)/C1=CC(=C(C=C1)Cl)Cl | C17H18Cl2N4O2
